US07300949B2
5.7.4 4-Tert-Butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid
Water (50 ml) was added to a stirred suspension of 4-tert-butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid ethyl ester (4.0 g, 10.5 mmol) and lithium hydroxide (1.0 g, 42.6 mmol) in THF (105 ml). The mixture was held at reflux for 18 hours, cooled, diluted with water (200 ml), and washed with ethyl acetate. The aqueous phase was chilled, then acidified (6M HCl), with stirring, to precipitate product. The solid was filtered and dried to yield 3.14 g (84%) of the product. MS: M+H=358.

reactant | 4-tert-butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid ethyl ester | 10.5 mmol, 4.0 g | C(C)OC(=O)C1=CN(C=2N=C(SC21)NC(C2=CC=C(C=C2)C)=O)C(C)(C)C | C20H23N3O3S
reactant | lithium hydroxide | 42.6 mmol, 1.0 g | [OH-].[Li+]
solvent | THF | 105 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | Water | 50 ml | O | H2O
product | 4-Tert-Butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid | 3.14 g, 84% | C(C)(C)(C)N1C=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)C)=O)C(=O)O | C18H19N3O3S
